US07645881B2
Preparation of 2-(4-methoxyphenyl)-4-thiophen-2-yl-6,7,8,9-tetrahydro-5H-1-thia-10-aza-cyclohepta[f]indene-3-carbonitrile (compound 63)
To a Schlenk tube was added 2-bromo-4-thiophen-2-yl-6,7,8,9-tetrahydro-5H-1-thia-10-aza-cyclohepta[f]indene-3-carbonitrile (45 mg, 0.116 mmol), p-methoxyphenyl boronic acid (21 mg, 0.138 mmol), NaHCO3 (29 mg, 0.348 mmol), Bu4NBr (8 mg, 0.023 mmol) and 1 mL of DME/H2O (4/1). After evacuating and back-filling with nitrogen twice, a catalytic amount of Pd(PPh3)4 was added. The sealed mixture was heated to 80° C. overnight. After pouring into water, the mixture was extracted with ethyl acetate. The organic phase was washed with brine, dried over anhydrous MgSO4 and concentrated. The residue was purified by flash chromatography to provide 30 mg of the title compound, 2-(4-methoxyphenyl)-4-thiophen-2-yl-6,7,8,9-tetrahydro-5H-1-thia-10-aza-cyclohepta[f]indene-3-carbonitrile.

reactant | 2-bromo-4-thiophen-2-yl-6,7,8,9-tetrahydro-5H-1-thia-10-aza-cyclohepta[f]indene-3-carbonitrile | 0.116 mmol, 45 mg | BrC1=C(C=2C(=C3C(=NC2S1)CCCCC3)C=3SC=CC3)C#N | C17H13BrN2S2
reactant | p-methoxyphenyl boronic acid | 0.138 mmol, 21 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | NaHCO3 | 0.348 mmol, 29 mg | C(=O)(O)[O-].[Na+]
catalyst | Bu4NBr | 0.023 mmol, 8 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | DME H2O | 1 mL | COCCOC.O
product | 2-(4-methoxyphenyl)-4-thiophen-2-yl-6,7,8,9-tetrahydro-5H-1-thia-10-aza-cyclohepta[f]indene-3-carbonitrile | 30 mg | COC1=CC=C(C=C1)C1=C(C=2C(=C3C(=NC2S1)CCCCC3)C=3SC=CC3)C#N | C24H20N2OS2
